US06087380
1-Methyl-2-[N-[4-(N-n-octyloxycarbonyl-amidino)-phenyl]aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and n-octyl chloroformate. Yield: 35% of theory, C36H45N7O5 (655.8) Rf value: 0.28 (silica gel; dichloromethane/ethanol=19:1) ##EQU87##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.N1=CC(=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | n-octyl chloroformate | ClC(=O)OCCCCCCCC | C9H17ClO2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-[4-(N-n-octyloxycarbonyl-amidino)-phenyl]aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 35% | N1=CC(=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCCCCCCCC)=N)C)C=C1)CCC(=O)OCC | C36H45N7O5
